US04294960
Ethyl 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetate (syn isomer, 19.6 g.), 2 N aqueous solution of sodium hydroxide (72.2 ml.), methanol (72.2 ml.) and tetrahydrofuran (72.2 ml.) were treated in a similar manner to that of Example F-(4) to give 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetic acid (syn isomer, 16.1 g.), mp 180° C. (dec.).

reactant | Ethyl 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetate | 19.6 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC(C)C | C11H17N3O3S
reactant | sodium hydroxide | 72.2 ml | [OH-].[Na+]
reactant | methanol | 72.2 ml | CO | CH4O
solvent | tetrahydrofuran | 72.2 ml | O1CCCC1 | C4H8O
product | 2-(2-aminothiazol-4-yl)-2-iso-butoxyiminoacetic acid | 16.1 g | NC=1SC=C(N1)C(C(=O)O)=NOCC(C)C | C9H13N3O3S
